US04032661
To a cooled (0° C.) mixture of water (13 ml.) and 27 mg. concentrated sulphuric acid was added dropwise 1,2-diethylcyclohexanol (12 g., 77 mmole) and then n-hexylthiol (9.1 g., 77 mmole). The mixture was stirred at 0° C. for 6 hours and at room temperature for 1 hour. The mixture was then poured into 1 liter of cold water and extracted with ether. The ether extract was washed with 2N sodium hydroxide and water and dried (MgSO4). The solvent was removed by distillation and the residue was distilled under reduced pressure to give n-hexyl 1,2-diethylcyclohexyl sulphide (15 g.) as a colourless liquid, b.p. 110°-4°/0.03 mm.

reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 1,2-diethylcyclohexanol | 77 mmole, 12 g | C(C)C1(C(CCCC1)CC)O | C10H20O
reactant | n-hexylthiol | 77 mmole, 9.1 g | CCCCCCS | C6H14S
solvent | water | 1 liter | O | H2O
solvent | water | 13 ml | O | H2O
product | n-hexyl 1,2-diethylcyclohexyl sulphide | 15 g | C(C)C1(C(CCCC1)CC)SCCCCCC | C16H32S
